US05202487
Preparation of 2-[(β,γ-dihydroxypropylthio)methyl]-4-nitrophenol
13.2 g of potassium hydroxide pellets (85 %) are heated to 45° C. in 27 g of thioglycerol. 10 ml of N-methylpyrrolidone are added followed portionwise over 30 minutes by 0.1 mole (23.2 g) of 2-hydroxy-5-nitrobenzyl bromide. The temperature of 67°-70° C. which is obtained is maintained for 30 minutes after the end of addition. The reaction mixture is diluted with 300 g of iced water. After neutralizing with acetic acid, the expected product precipitates. After filtering off, followed by drying at 45° C. under vacuum the product obtained is recrystallized from isopropyl acetate. It melts at 130° C.

reactant | potassium hydroxide | 13.2 g | [OH-].[K+]
reactant | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-hydroxy-5-nitrobenzyl bromide | 0.1 mole, 23.2 g | OC1=C(CBr)C=C(C=C1)[N+](=O)[O-] | C7H6BrNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | thioglycerol | 27 g | SCC(O)CO | C3H8O2S
solvent | water | 300 g | O | H2O
product | 2-[(β,γ-dihydroxypropylthio)methyl]-4-nitrophenol | OC(CSCC1=C(C=CC(=C1)[N+](=O)[O-])O)CO | C10H13NO5S
